US07091227B2
N-(6-Bromo-1,3-benzothiazol-2-yl)-N′-[4-(4-methylpiperazino)-4-oxobutyl]urea
Ethyl 4-([(6-bromo-1,3-benzothiazol-2-yl)amino]carbonylamino)butanoate (100 mg, 0.259 mmol) was heated neat at about 80° C. in N-methyl-piperazine (259 mg, 2.59 mmol) for about 8 hrs. To the crude reaction mixture was added THF (2 mL), the ppt was filtered off and washed with THF (1 mL). The product was dried in vacuo and gave 67 mg (53%) pure product.

reactant | Ethyl 4-([(6-bromo-1,3-benzothiazol-2-yl)amino]carbonylamino)butanoate | 0.259 mmol, 100 mg | BrC1=CC2=C(N=C(S2)NC(=O)NCCCC(=O)OCC)C=C1 | C14H16BrN3O3S
reactant | N-methyl-piperazine | 2.59 mmol, 259 mg | CN1CCNCC1 | C5H12N2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-(6-Bromo-1,3-benzothiazol-2-yl)-N′-[4-(4-methylpiperazino)-4-oxobutyl]urea | 67 mg, 53% | BrC1=CC2=C(N=C(S2)NC(=O)NCCCC(=O)N2CCN(CC2)C)C=C1 | C17H22BrN5O2S
